US05380921
(iii) Benzyl 2-(R)-trifluoromethanesulfonyloxy-4-methylpentanoate
Benzyl 2-(R)-hydroxy-4-methylpentanoate (2.22 g) was dissolved in 10 ml of anhydrous dichloromethane, and then the solution was cooled to 0° C. Pyridine (1.05 ml) was added to the solution, and 2.46 ml of trifluoromethanesulfonic anhydride was added dropwise to the mixture over 15 minutes. The mixture was then stirred at 0° C. for 15 minutes. The resulting precipitate was filtered off, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel chromatography (dichloromethane) to yield the title compound as a colorless oil (2.79 g).

reactant | Benzyl 2-(R)-hydroxy-4-methylpentanoate | 2.22 g | O[C@@H](C(=O)OCC1=CC=CC=C1)CC(C)C | C13H18O3
reactant | Pyridine | 1.05 ml | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 2.46 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | Benzyl 2-(R)-trifluoromethanesulfonyloxy-4-methylpentanoate | 2.79 g | FC(S(=O)(=O)O[C@@H](C(=O)OCC1=CC=CC=C1)CC(C)C)(F)F | C14H17F3O5S
